US04146611
A mixture of 2-acetylthiomethyl-5-aminopentanoic acid (2.05 g.) and p-nitrophenyltrifluoroacetate (5.6 g.) in pyridine (10 ml.) is stirred at room temperature for four hours, and then added dropwise to a vigorously stirred solution of L-proline (1.55 g.) in water (10 ml.) while keeping the pH at 9 with careful addition of 2N sodium hydroxide. When the consumption of sodium hydroxide stops, the reaction mixture is acidified with hydrochloric acid and extracted with ethyl acetate. The solvent is removed in vacuo and the residue is chromatographed on a silica gel column to yield 1-[2-acetylthiomethyl-5-(trifluoroacetylamino)pentanoyl]-L-proline.

reactant | 2-acetylthiomethyl-5-aminopentanoic acid | 2.05 g | C(C)(=O)SCC(C(=O)O)CCCN | C8H15NO3S
reactant | p-nitrophenyltrifluoroacetate | 5.6 g | C1=CC(=CC=C1[N+](=O)[O-])OC(=O)C(F)(F)F | C8H4F3NO4
reactant | L-proline | 1.55 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 10 ml | O | H2O
product | 1-[2-acetylthiomethyl-5-(trifluoroacetylamino)pentanoyl]-L-proline | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CCCNC(C(F)(F)F)=O | C15H21F3N2O5S
